US06310056B1
b) (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-3-yl)-1-carbapen-2-em-3-carboxylate (inner salt)
To a solution of 60.5 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-3-yl)-1-carbapen-2-em-3-carboxylate in 1.8 ml of THF and 1.8 ml of {fraction (1/15)} M phosphate buffer (pH 6.8) was added 71 mg of 10% Pd-C. The reactor was purged with hydrogen, and the reaction mixture was stirred at room temperature for 3.5 hours. The catalyst was collected by filtration through Celite, and washed with water. The filtrate was washed with 20 ml of ethyl acetate, and purified by column chromatography on DIAION HP-20 and on COSMOSEAL40C18-PREP (water:methanol=20:1) to give 8.3 mg of the title compound.

reactant | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-3-yl)-1-carbapen-2-em-3-carboxylate | 60.5 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2[N+]=3C(SC2)=CN(C3)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O
reactant | phosphate | pH 6.8 | P(=O)([O-])([O-])[O-]
solvent | THF | 1.8 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 71 mg | [Pd] | Pd
product | (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-3-yl)-1-carbapen-2-em-3-carboxylate | 8.3 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2[N+]=3C(SC2)=CN(C3)C)C(=O)[O-])C1=O | C16H17N3O4S
